US06034099
From the reaction of 4-pyridylhydrazine and ethylbutyrylacetate, 2,4-dihydro-5-propyl-2-(4-pyridyl)-3H-pyrazol-3-one is obtained. Subsequent reaction wvith 2-ethylaniline yields 4-(2-ethyianilinomethylene)-2,4-dihydro-5-propyl-2-(4-pyridyl)-3H-pyrazol-3-one, Mp 159.2° C.

reactant | 4-pyridylhydrazine | N1=CC=C(C=C1)NN | C5H7N3
reactant | ethylbutyrylacetate | C(C)CCCC(=O)CC(=O)[O-]
product | 2,4-dihydro-5-propyl-2-(4-pyridyl)-3H-pyrazol-3-one | C(CC)C=1CC(N(N1)C1=CC=NC=C1)=O | C11H13N3O
